US09023854B2
22.2 5-Chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl 4-(1-methylpiperidin-4-yl)piperazine-1-carboxylate
A mixture of 1.29 g (2.37 mmol) of phenyl 5-chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-3-phenoxycarbonyloxy-2,3-dihydroindole-1-carboxylate, 1.73 g (9.46 mmol) of 1-(1-methylpiperidin-4-yl)piperazine and 10 ml of dry THF was stirred at room temperature for 72 hours. The reaction mixture was diluted with dichloromethane and extracted with water and saturated sodium chloride solution. The organic phase was dried over magnesium sulfate and concentrated under reduced pressure. The residue was stirred with diethyl ether. 963 mg of the title compound were obtained as a white solid.

reactant | phenyl 5-chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-3-phenoxycarbonyloxy-2,3-dihydroindole-1-carboxylate | 2.37 mmol, 1.29 g | ClC=1C=C2C(C(N(C2=CC1)C(=O)OC1=CC=CC=C1)=O)(OC(=O)OC1=CC=CC=C1)C=1C(=NC=CC1)OCC | C29H21ClN2O7
reactant | 1-(1-methylpiperidin-4-yl)piperazine | 9.46 mmol, 1.73 g | CN1CCC(CC1)N1CCNCC1 | C10H21N3
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl 4-(1-methylpiperidin-4-yl)piperazine-1-carboxylate | 963 mg | CN1CCC(CC1)N1CCN(CC1)C(=O)OC1(C(NC2=CC=C(C=C12)Cl)=O)C=1C(=NC=CC1)OCC | C26H32ClN5O4
